US08703767B2
18. Preparation of N-(3-(5-chloro-2-((4-(4-methylpiperazin-1-yl)phenyl)amino)pyrimidin-4-yl)phenyl)acrylamide
N-(3-(2,5-dichloropyrimidin-4-yl)phenyl)acrylamide (30 mg, 0.102 mmol), 4-(4-methylpiperazin-1-yl)aniline (21 mg, 0.110 mmol)) and potassium carbonate (14 mg, 0.101 mmol) were dissolved in toluene (4 mL) in a sealable microwave compatible reaction tube, then Pd2(dba)3 (2 mg, 0.002 mmol) and Xantphos (2.7 mg, 0.005 mmol) were added. The reaction tube was sealed and the reaction was heated under microwave irradiation (40 min, 200° C., 3 atm). The reaction was monitored by TLC. The product was purified by column chromatography (5% CH3OH/CH2Cl2) to give the title compound. 1H NMR (400 MHz, CD3OD): δ 8.40 (s, 1H), 8.20 (s, 1H), 7.77 (d, 1H, J=7.2 Hz), 7.59 (m, 3H), 7.46 (t, 1H, J=7.6 Hz), 6.96 (m, 2H), 6.46-6.36 (m, 2H), 5.79 (dd, 1H, J=2.4 & 9.6 Hz), 3.14 (m, 4H), 2.61 (m, 4H), 2.34 (s, 3H). ESI-MS: m/z 449.10 [M+H]+.

reactant | N-(3-(2,5-dichloropyrimidin-4-yl)phenyl)acrylamide | 0.102 mmol, 30 mg | ClC1=NC=C(C(=N1)C=1C=C(C=CC1)NC(C=C)=O)Cl | C13H9Cl2N3O
reactant | 4-(4-methylpiperazin-1-yl)aniline | 0.110 mmol, 21 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | potassium carbonate | 0.101 mmol, 14 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Xantphos | 0.005 mmol, 2.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.002 mmol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(5-chloro-2-((4-(4-methylpiperazin-1-yl)phenyl)amino)pyrimidin-4-yl)phenyl)acrylamide | ClC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)C=1C=C(C=CC1)NC(C=C)=O | C24H25ClN6O
